US06903126B2
6-[[1-(4-Methylphenyl)-2-(2-pyridinyl)mercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
200 mg of 6-[[1-(4-methylphenyl)-2-mercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was heated to 150° C. with 80 μl of 2-chloropyridine for 14 hours. After another 200 μl of 2-chloropyridine was added, it was heated for 3 hours to 170° C. After cooling, it was purified by column chromatography on silica gel. 40 mg was obtained.

reactant | 6-[[1-(4-methylphenyl)-2-mercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 200 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S)C2=CC=C(C=C2)C)C1)=O | C21H24N2O3S
reactant | 2-chloropyridine | 200 μl | ClC1=NC=CC=C1 | C5H4ClN
reactant | 2-chloropyridine | 80 μl | ClC1=NC=CC=C1 | C5H4ClN
product | 6-[[1-(4-Methylphenyl)-2-(2-pyridinyl)mercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SC2=NC=CC=C2)C2=CC=C(C=C2)C)C1)=O | C26H27N3O3S
